*
*
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************


.subckt	750315089		3  2  1  4  5  6		
.param RxLkg=434.51ohm					
.param Leakage=0.755uh					
Rlkg	3	3a	{RxLkg/2}		
L_Lkg	3	3a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	3a	2	169.623uH	Rser=874mohm	
Lpri2	2a	1	169.623uH	Rser=859mohm	
Lsec1	4	5	170uH	Rser=788mohm	
Lsec2	5	6	170uH	Rser=962mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=22.2pf					
.param Cprm2=22.2pf					
.param Rdmp1=97837.49ohm					
.param Rdmp2=97837.49ohm					
Cpri1	3	2	{Cprm1}	Rser=10mohm	
Cpri2	2	1	{Cprm2}	Rser=10mohm	
Rdmp1	3	2	{Rdmp1}		
Rdmp2	2	1	{Rdmp2}		
Rg3	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	4	0	20meg		
Rg19	5	0	20meg		
Rg20	6	0	20meg		
.ends					

.subckt	750315090		3  2  1  4  5  6		
.param RxLkg=539.16ohm					
.param Leakage=0.4uh					
Rlkg	3	3a	{RxLkg/2}		
L_Lkg	3	3a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	3a	2	79.8uH	Rser=351mohm	
Lpri2	2a	1	79.8uH	Rser=348mohm	
Lsec1	4	5	80uH	Rser=243mohm	
Lsec2	5	6	80uH	Rser=303mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=8.6pf					
.param Cprm2=8.6pf					
.param Rdmp1=107832.53ohm					
.param Rdmp2=107832.53ohm					
Cpri1	3	2	{Cprm1}	Rser=10mohm	
Cpri2	2	1	{Cprm2}	Rser=10mohm	
Rdmp1	3	2	{Rdmp1}		
Rdmp2	2	1	{Rdmp2}		
Rg3	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	4	0	20meg		
Rg19	5	0	20meg		
Rg20	6	0	20meg		
.ends					

.subckt	750315072		3  2  1  4  5  6		
.param RxLkg=498.17ohm					
.param Leakage=0.663uh					
Rlkg	3	3a	{RxLkg/2}		
L_Lkg	3	3a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	3a	2	204.669uH	Rser=687mohm	
Lpri2	2a	1	204.669uH	Rser=690mohm	
Lsec1	4	5	87.193uH	Rser=424mohm	
Lsec2	5	6	87.193uH	Rser=519mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=10.8pf					
.param Cprm2=10.8pf					
.param Rdmp1=154035.68ohm					
.param Rdmp2=154035.68ohm					
Cpri1	3	2	{Cprm1}	Rser=10mohm	
Cpri2	2	1	{Cprm2}	Rser=10mohm	
Rdmp1	3	2	{Rdmp1}		
Rdmp2	2	1	{Rdmp2}		
Rg3	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	4	0	20meg		
Rg19	5	0	20meg		
Rg20	6	0	20meg		
.ends					


.subckt	750314706		3  2  1  4  5  6		
.param RxLkg=337.67ohm					
.param Leakage=0.438uh					
Rlkg	3	3a	{RxLkg/2}		
L_Lkg	3	3a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	3a	2	95.381uH	Rser=443mohm	
Lpri2	2a	1	95.381uH	Rser=447mohm	
Lsec1	4	5	309.744uH	Rser=714mohm	
Lsec2	5	6	309.744uH	Rser=880mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=22pf					
.param Cprm2=22pf					
.param Rdmp1=73700.72ohm					
.param Rdmp2=73700.72ohm					
Cpri1	3	2	{Cprm1}	Rser=10mohm	
Cpri2	2	1	{Cprm2}	Rser=10mohm	
Rdmp1	3	2	{Rdmp1}		
Rdmp2	2	1	{Rdmp2}		
Rg3	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	4	0	20meg		
Rg19	5	0	20meg		
Rg20	6	0	20meg		
.ends					

.subckt	750311542		1  2  3  6  5  4		
.param RxLkg=408.25ohm					
.param Leakage=1uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	149.5uH	Rser=340mohm	
Lpri2	2a	3	149.5uH	Rser=340mohm	
Lsec1	6	5	1115.702uH	Rser=850mohm	
Lsec2	5	4	1115.702uH	Rser=850mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=50pf					
.param Cprm2=50pf					
.param Rdmp1=61237.49ohm					
.param Rdmp2=61237.49ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					
